US04976874
Preparation of N,N-dimethyl-N-ethyl-N-propylammonium tribromide
Into a 3-liter flask fitted with a condenser, a 250-ml addition funnel, a thermometer, and a mechanical stirrer were placed N,N-dimethyl-N-ethylamine (256.0 grams, 3.50 moles) and 1000 ml of water. To the stirred solution was added 1-bromopropane (430.5 grams, 3.50 mole) and the two-phase mixture heated to 50° C. with vigorous agitation. After 8.5 hours the 1H--NMR nuclear magnetic resonance spectrum of the upper layer indicated that the N,N-dimethyl-N-ethylamine had been completely consumed. The amber solution was cooled to room temperature, and bromine (560 grams, 3.50 moles) was added dropwise over a period of 1.5 hour with vigorous stirring. The tribromide separated as a dark red lower layer. The layers were separated and the residual water (appx. 25 grams) removed from the tribromide layer by distillation at 50° C. under reduced pressure. The yield of dark red N,N-dimethyl-N-ethyl-N-propylammonium tribromide was 1083.0 grams (87% from N,N-dimethyl-N-ethylamine). Analysis: %Brtot =68.73% (exp), 67.35% (theo): %Brox =47.58 % (exp), 44.90% (theo).

reactant | N,N-dimethyl-N-ethylamine | 3.50 moles, 256.0 grams | CN(CC)C | C4H11N
reactant | 1-bromopropane | 3.50 mole, 430.5 grams | BrCCC | C3H7Br
reactant | bromine | 3.50 moles, 560 grams | BrBr | Br2
solvent | water | 1000 ml | O | H2O
product | N,N-dimethyl-N-ethyl-N-propylammonium tribromide | [Br-].[Br-].[Br-].C[N+](CCC)(CC)C.C[N+](C)(CC)CCC.C[N+](C)(CC)CCC | InChI=1S/3C7H18N.3BrH/c3*1-5-7-8(3,4)6-2;;;/h3*5-7H2,1-4H3;3*1H/q3*+1;;;/p-3
